US08293925B2
LHMDS (1 M solution in THF, 9.72 mL, 9.72 mmol) was added slowly to a cooled (−50° C.) solution of 1-(2,6-dimethyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (2 g, 8.1 mmol) in THF (50 mL). Stirred at −50° C. for 5 min then warmed to 0° C. and stirred further for 5 min. After cooling back to −50° C., (CH2O)n (1.2 g, 40.5 mmol) was added and the resulting reaction mixture was warmed to room temperature and stirred for 2 h. Saturated aqueous NH4Cl solution (25 mL) was added, extracted with EtOAc (3×75 mL). The combined organic layer was washed with water (100 mL), brine (100 mL), dried (Na2SO4) and evaporated. The residue was purified by automated flash chromatography (SiO2, 20→50% EtOAc/hexanes) to give 1-(2,6-dimethyl-phenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester (762 mg, 34% yield). LC-MS: Rt (retention time): 0.9 min, MS: (ES) m/z 278.1 (M+H+).

reactant | LHMDS | 9.72 mmol, 1 M, 9.72 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(2,6-dimethyl-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 8.1 mmol, 2 g | COC(=O)C1CN(C(C1)=O)C1=C(C=CC=C1C)C | C14H17NO3
reactant | NH4Cl | 25 mL | [NH4+].[Cl-]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(2,6-dimethyl-phenyl)-3-hydroxymethyl-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | 762 mg, 34% yield | COC(=O)C1(CN(C(C1)=O)C1=C(C=CC=C1C)C)CO | C15H19NO4
